US05679688
STEP A: (1-Carbamoylmethyl)acrylic acid:
To a mixture of 3g (0.027mol) of itaconic anhydride in 30 ml of tetrahydrofuran, 3 ml of 28% ammonium hydroxide was added. After 1 hr. the reaction mixture was evaporated to dryness under reduced pressure. The residue was dissolved in 15 ml of water, then acidified to pH 2 with concentrated hydrochloric acid and allowed to stay overnight at 4°. The precipitate formed was filtered off, washed with a small portion of cold water and dried to give 1.4 g (40% yield) of the title compound melting at 153°-154° C.; NMR (DMSO-d6): 3.11 (s, 2H, CH2); 5.67,6.13 (s, s, 1H, 1H, CH); 6.7, 7.9 (broad s, s 1H, 1H, NH); 12.15 (broad s, 1 H, OH).

reactant | itaconic anhydride | C1(C(=C)CC(=O)O1)=O | C5H4O3
reactant | ammonium hydroxide | 3 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (1-Carbamoylmethyl)acrylic acid | 1.4 g, 40% yield | C(N)(=O)CC(C(=O)O)=C | C5H7NO3
